US07732452B2
Step 2: 4-(2-Chloro-phenoxy)-butyryl chloride
To 4-(2-chloro-phenoxy)-butyric acid (250 mg, 1.165 mmol) was added portion wise thionyl chloride (1.69 mL), and the reaction mixture was stirred for 3 hours at 90° C. After such time the excess of thionyl chloride was removed in vacuo to yield the crude title compound which was used in the next step without any further purification.

reactant | 4-(2-chloro-phenoxy)-butyric acid | 1.165 mmol, 250 mg | ClC1=C(OCCCC(=O)O)C=CC=C1 | C10H11ClO3
reactant | thionyl chloride | 1.69 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(2-Chloro-phenoxy)-butyryl chloride | ClC1=C(OCCCC(=O)Cl)C=CC=C1 | C10H10Cl2O2
